US05332735
EXAMPLE 61: ETHYL 1-(4,5-METHYLENEDIOXY-2-NITROBENZOYL)PYRROLIDINE-2-CARBOXYLATE
By carrying out the procedure as in Example 11, but replacing 4-hydroxy-1-(3,4-methylenedioxybenzoyl)pyrrolidine-2-carboxylic acid by 1-(4,5-methylenedioxy-2-nitrobenzoyl)pyrrolidine-2-carboxylic acid and methanol by ethanol, the title product is obtained.

reactant | 1-(4,5-methylenedioxy-2-nitrobenzoyl)pyrrolidine-2-carboxylic acid | C1OC2=CC(=C(C(=O)N3C(CCC3)C(=O)O)C=C2O1)[N+](=O)[O-] | C13H12N2O7
reactant | methanol | CO | CH4O
reactant | ethanol | C(C)O | C2H6O
product | ETHYL 1-(4,5-METHYLENEDIOXY-2-NITROBENZOYL)PYRROLIDINE-2-CARBOXYLATE | Yield: 85% | C1OC2=CC(=C(C(=O)N3C(CCC3)C(=O)OCC)C=C2O1)[N+](=O)[O-] | C15H16N2O7
